Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2](=[C:3]([H:12])[H:13])[C:7]([C:4]([C:5]([H:11])([H:14])[H:15])=[O:6])([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],96.3699710314467
[C:1]([C:2]1([C:5](=[O:6])[H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:5]1([H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])=[O:6])([H:7])([H:8])[H:9],87.71472176507342
[C:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]12[O:3][N:6]([H:12])[C@:5]1([H:11])[N:4]2[H:10])([H:7])([H:8])[H:9],117.759427115272
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[O:5][C@@:6]12[H:12]>>[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C:3]([H:10])=[C:4]([H:11])[O:5][C@@:6]12[H:12],71.757698113033
[O:1](/[C:2]([N:3]1[C:4]([O:5][H:9])=[C:6]1[H:10])=[N:7]\[H:11])[H:8]>>[O:1]([c+:2]1[n-:3][c:4]([O:5][H:9])[c:6]([H:10])[n:7]1[H:11])[H:8],17.884592852056514
[C:1]([C@@:2]([O:3][H:12])([C@@:4]([O:5][H:14])([C:6](=[O:7])[H:15])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:14])([C:6](=[O:7])[H:15])[H:13])([H:8])([H:9])[H:10].[H:11][H:12],80.30378189709191
[C:1]([C:4]([H:9])([H:10])[H:11])([H:6])([H:7])[H:8].[O:2]=[C:3]=[N:5][H:12]>>[C:1]([O:2]/[C:3]([C:4]([H:9])([H:10])[H:11])=[N:5]/[H:12])([H:6])([H:7])[H:8],107.1375160809456
[C-:6]#[O+:7].[C:1](/[C:2](=[N:3]\[H:11])[H:14])([H:8])([H:9])[H:10].[O:4]=[C:5]([H:12])[H:13]>>[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10],40.193315979976504
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C@:6]1([H:15])[C:5](=[C:4])[O:7]1)[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10],57.447234618411784
[C:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N+:6]#[C:5][C:4]#[C-:3])([H:10])[H:11])([H:7])([H:8])[H:9],119.02453501960899
[C:1]([C:2](/[C:3](=[N:4]\[O:5][H:12])[C:6]([H:13])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C+:2]([C:3](=[N-:4])[C:6]([H:13])([H:14])[H:15])([H:10])[H:11].[C:1]([O:5][H:12])([H:7])([H:8])[H:9],77.5483437551453
[C:1]([n:6]1[c:5]([H:14])[c:4]([H:13])[n+:3]([C-:2]([H:11])[H:12])[c:7]1[H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],47.0888314015045
[O:1]=[C:2]([N:3]([C:4]([H:9])([H:10])[H:11])[H:8])[C@@:7]1([H:12])[C-:5]=[O+:6]1>>[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C@@:5]2([H:11])[O:6][C@@:7]12[H:12],17.708203732902902
[C:1]([C:2]([O:3][N:6]=[C:5]=[C:4]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],32.4173351619288
[C:1]([C@:2]1([H:10])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C:5][C:6]1([H:11])[H:16])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[C:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],26.271741152047
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([H:11])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])[O:7]1)([H:8])([H:9])[H:10].[O:3][H:12],90.3030329953772
[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([H:11])[C:3]([O:4][H:14])([H:13])[C@:5]1([C:6]([H:16])([H:17])[H:18])[H:15])([H:8])([H:9])[H:10].[O:7]([H:12])[H:19],85.8458280167397
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[N:3]1([H:9])[C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[C:6]1=[C:7]([H:8])[H:14].[O+:1]#[C-:2],89.67023054066
[C:1]([C:6]1=[C:7]([H:15])[O:5]/[C:4]1=[C:2](\[C:3]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],111.68436159808218
[O:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C-:3]1[C:4]([H:12])([H:13])[C+:5]([O:6][H:11])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8],92.5193559634437
[N:1]([c:2]1[n:3][n:4][c:5]([N:6]([H:10])[H:11])[o:7]1)([H:8])[H:9]>>[N+:1]([C:2]1=[N:3][N:4][C:5](=[N:6][H:11])[O:7]1)([H:8])([H:9])[H:10],97.6198261502289
[N:1]([N+:6]1=[C:2]=[N:3][N:4]([H:9])[C-:5]1[H:10])([H:7])[H:8]>>[N:1]([c:2]1[n:3][n:4]([H:9])[c:5]([H:10])[n:6]1)([H:7])[H:8],59.2178439764573
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:4](/[C:5]#[C:6][H:14])[H:13])[H:10])([H:7])([H:8])[H:9].[O:3]([H:11])[H:12],54.7562648087607
[N:1]([C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7])([H:8])[H:9]>>[C:2](#[O+:3])[C:5]#[C-:4].[N:1]([C:6]#[N:7])([H:8])[H:9],103.97640604200899
